US08466282B2
(3R,5S)-1-(tert-butoxycarbonyl)-5-{{{4-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-3-carboxylic acid
1-tert-Butyl 3-methyl(3R,5S)-5-{{{4-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-1,3-dicarboxylate (195 mg) was dissolved in tetrahydrofuran-methanol (1:2, 15 ml), 2M aqueous sodium hydroxide solution (1 ml) was added, and the mixture was stirred at 45° C. for 4 hr. The reaction mixture was concentrated under reduced pressure, neutralized with saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, concentration under reduced pressure to give the object product (180 mg).

reactant | 1-tert-Butyl 3-methyl(3R,5S)-5-{{{4-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-1,3-dicarboxylate | 195 mg | FC1=CC=CC=2N(C(=NC21)C(=O)N([C@H]2C[C@H](CN(C2)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C)CCCCOC | C29H43FN4O6
reactant | sodium hydroxide | 2M, 1 ml | [OH-].[Na+]
solvent | tetrahydrofuran-methanol | 15 ml | O1C(CCC1)CO | C5H10O2
product | (3R,5S)-1-(tert-butoxycarbonyl)-5-{{{4-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}piperidine-3-carboxylic acid | 180 mg | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2F)C(=O)O | C28H41FN4O6
